US07030118B2
A) Methyl 1-amino-4-chloro-1H-pyrrole-2-carboxylate, hydrochloride salt
A mixture of sodium hydride (60%, 1.51 g, 38 mmol) and methyl 4-chloro-1H-pyrrole-2-carboxylate (Tetrahedron Letters, 1979, 27, 2505–2508; 4.80 g, 30 mmol) in DMF (40 mL) at 0° C. was stirred for 20 min, then was added 2, 4-dinitrophenolamine (Tetrahedron Lett. 1968, 16, 1909–1910 and J. Heterocyclic Chem. 1967, 413, 7.24 g, 36 mmol), and the reaction mixture was stirred at rt overnight. Water (100 mL) was added to the mixture, and the product was extracted with EtOAc (3×120 mL), the EtOAc solution was washed with 10% LiCl solution (2×120 mL), brine (120 mL), dried over MgSO4 and concentrated in vacuo to give the crude product as a brown oil. This crude product was treated with 4 N HCl in dioxane (8 mL) in Et2O (60 mL), the precipitated solid was collected, washed with Et2O and dried to give the title compound (5.40 g, 85%): 1H NMR (DMSO-d6) δ 7.17 (d, 1H, J=2.2 Hz), 6.68 (d, 1H, J=2.2 Hz), 3.74 (s, 3H).

reactant | sodium hydride | 38 mmol, 1.51 g | [H-].[Na+]
reactant | methyl 4-chloro-1H-pyrrole-2-carboxylate | 30 mmol, 4.80 g | ClC=1C=C(NC1)C(=O)OC | C6H6ClNO2
reactant | Water | 100 mL | O | H2O
reactant | HCl | 4 N | Cl | ClH
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | 60 mL | CCOCC | C4H10O
product | Methyl 1-amino-4-chloro-1H-pyrrole-2-carboxylate, hydrochloride salt | 5.40 g, 85% | Cl.NN1C(=CC(=C1)Cl)C(=O)OC | InChI=1S/C6H7ClN2O2.ClH/c1-11-6(10)5-2-4(7)3-9(5)8;/h2-3H,8H2,1H3;1H
